US05811433
h. Ethyl 7,8-dichloro-1-cyclopropyl-1,4-dihydro-5-methyl-4-oxo-1,6-naphthyridine-3-carboxylate
4.8 g (0.01 mol) of ethyl 2-(4,5,6-trichloro-2-methyl-nicotinoyl)-3-cyclopropylamino-acrylate are heated with 2.2 g (0.016 mol) of potassium carbonate in 40 ml of DMF at 100° C. for four hours. Ice-water is added to the cooled mixture and the product is isolated, washed with ice-water and dried.

reactant | ethyl 2-(4,5,6-trichloro-2-methyl-nicotinoyl)-3-cyclopropylamino-acrylate | 0.01 mol, 4.8 g | ClC1=C(C(=NC(=C1C(=O)C(C(=O)OCC)=CNC1CC1)C)Cl)Cl | C15H15Cl3N2O3
reactant | potassium carbonate | 0.016 mol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Ethyl 7,8-dichloro-1-cyclopropyl-1,4-dihydro-5-methyl-4-oxo-1,6-naphthyridine-3-carboxylate | ClC1=NC(=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)OCC)=O)C | C15H14Cl2N2O3
